US06147098
N-Cyano-N'-(3,5-dichlorophenyl)-N"-propylguanidine
N-(3,5-Dichlorophenyl)-N'-cyano-O-phenylisourea (0.98 mmol, 300 mg) and n-propylamine (1 ml) was stirred in a sealed flask for 19 h at 75° C. After concentration the residue was dissolved in dichloromethane, washed with 1 N aqueous HCl (2×), water, dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (ethyl acetate/heptane 1:3) to give the title compound (60 mg, 23%) as white crystals. Mp 141-143° C.; 1H-NMR (CDCl3): δ 0.92 (d, 6H), 1.58 (sextet, 2H), 3.25 (q, 1H), 5.1 (br, 1H), 7.19 (m, 2H), 7.25 (m, 1H), 7.95 ppm (br, 1H); MA calc for C11H12Cl2N4 : C, 48.73%; H, 4.46%; N, 20.66%. Found: C, 49.02%; H, 4.55%; N 20.27%.

reactant | N-(3,5-Dichlorophenyl)-N'-cyano-O-phenylisourea | 0.98 mmol, 300 mg | ClC=1C=C(C=C(C1)Cl)NC(OC1=CC=CC=C1)=NC#N | C14H9Cl2N3O
reactant | n-propylamine | 1 ml | C(CC)N | C3H9N
product | N-Cyano-N'-(3,5-dichlorophenyl)-N"-propylguanidine | 60 mg, 23% | C(#N)NC(=NCCC)NC1=CC(=CC(=C1)Cl)Cl | C11H12Cl2N4
